US04104284
50 g of 1,7-dinitro-anthraquinone and 150 ml of o-anisidine are stirred for 9 hours at 120° - 125° C and then diluted with 150 ml of ethylene glycol monomethyl ether, the mixture is stirred until cold and stirred for several hours longer in an ice bath, and the product is filtered off and successively washed with a little ethylene glycol monomethyl ether, methanol and water. 40.4 g of 1-o-anisidino-7-nitro-anthraquinone are obtained.

reactant | 1,7-dinitro-anthraquinone | 50 g | [N+](=O)([O-])C1=CC=CC=2C(C3=CC=C(C=C3C(C12)=O)[N+](=O)[O-])=O | C14H6N2O6
reactant | o-anisidine | 150 ml | COC=1C(=CC=CC1)N | C7H9NO
solvent | ethylene glycol monomethyl ether | 150 ml | COCCO | C3H8O2
product | 1-o-anisidino-7-nitro-anthraquinone | 40.4 g | COC=1C(=CC=CC1)NC1=CC=CC=2C(C3=CC=C(C=C3C(C12)=O)[N+](=O)[O-])=O | C21H14N2O5
